US09315521B2
6-methyl-2-({[1-(propan-2-yl)-1H-imidazol-2-yl]methyl}sulfanyl)pyrimidin-4-ol
This example was synthesized from 2-(chloromethyl)-1-(propan-2-yl)-1H-imidazole and 6-methyl-2-sulfanylpyrimidin-4-ol following the general procedure as shown in the last step of Example 109. This provided the title compound as a pale white solid (1.0 g, 72% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.33 (m, 6H), 2.18 (s, 3H), 4.52 (s, 2H), 4.54 (m, 1H), 4.54 (m, 1H), 6.00 (br, 1H), 6.83 (s, 1H), 7.26 (s, 1H); M+265.

reactant | 2-(chloromethyl)-1-(propan-2-yl)-1H-imidazole | ClCC=1N(C=CN1)C(C)C | C7H11ClN2
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | CC1=CC(=NC(=N1)S)O | C5H6N2OS
product | 6-methyl-2-({[1-(propan-2-yl)-1H-imidazol-2-yl]methyl}sulfanyl)pyrimidin-4-ol | 1.0 g, 72% yield | CC1=CC(=NC(=N1)SCC=1N(C=CN1)C(C)C)O | C12H16N4OS
